US07129235B2
1-(3-chloro-2-pyridinyl)-4-hydroxy-N-[4-(trifluoromethyl)phenyl]-4-piperidinecarboxamide
1-(3-Chloro-2-pyridinyl)-4-hydroxy-4-piperidinecarboxylic acid, EDCI (525 mg, 2.7 mmol), and 4-(trifluoromethyl)aniline in dichloromethane (10 mL) were combined at room temperature and stirred overnight. Standard work-up gave a crude product which was purified via chromatography (SiO2, ethyl acetate:hexanes, 1:9). 1H NMR (500 MHz, CDCl3) δ 8.90 (s(br), 1H), 8.20 (dd, 1H), 7.74 (d, 2H), 7.61 (m, 3H), 6.86 (dd, 1H), 3.80 (m, 2H), 3.18 (m, 2H), 2.50 (m, 2H), 1.78 (m, 2H); MS (ESI, M+H)+400.

reactant | 1-(3-Chloro-2-pyridinyl)-4-hydroxy-4-piperidinecarboxylic acid | ClC=1C(=NC=CC1)N1CCC(CC1)(C(=O)O)O | C11H13ClN2O3
reactant | EDCI | 2.7 mmol, 525 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 4-(trifluoromethyl)aniline | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(3-chloro-2-pyridinyl)-4-hydroxy-N-[4-(trifluoromethyl)phenyl]-4-piperidinecarboxamide | ClC=1C(=NC=CC1)N1CCC(CC1)(C(=O)NC1=CC=C(C=C1)C(F)(F)F)O | C18H17ClF3N3O2
